US03974284
An amount of 11.6 g (0.05 mole) of 1,1a,6,10b-tetrahydro-1,6-methano-dibenzo[a,e]cyclopropa[c]cyclohepten-11-one [V. Ioan, M. Popovici et al.: Tetrahedron Letters 38, 3383 (1965)] is dissolved in 200 ml of methanol, and 50 ml of a 33% solution of methylamine in ethanol added; the whole is heated, with stirring, to 35°, and subsequently stirred for a further hour at ca. 20°, whereby a thick precipitate is formed. There is then introduced into the reaction mixture with stirring, 3.8 g (0.1 mole) of sodium borohydride, with the temperature being maintained at 20° by cooling. The reaction mixture is subsequently stirred for one hour at 20° and then briefly refluxed. After cooling, the reaction mixture is completely concentrated in a waterjet vacuum. The residue is distributed between water and ether, and the ethereal phase extracted with 2N hydrochloric acid. The combined acidified extracts are rendered alkaline with concentrated ammonia and extracted with ether; the combined ether extracts are washed with water, dried over sodium sulphate and concentrated in a waterjet vacuum to obtain N-methyl-1,1a,6,10-tetrahydro-1,6-methano-dibenzo[a,e]cyclopropa[c]cycloheptene-11-amine; M.P. 142°-143°.

reactant | 1,1a,6,10b-tetrahydro-1,6-methano-dibenzo[a,e]cyclopropa[c]cyclohepten-11-one | 0.05 mole, 11.6 g | C12C3C4=C(C(C5=C(C31)C=CC=C5)C2=O)C=CC=C4 | C17H12O
reactant | methylamine | CN | CH5N
reactant | sodium borohydride | 0.1 mole, 3.8 g | [BH4-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | N-methyl-1,1a,6,10-tetrahydro-1,6-methano-dibenzo[a,e]cyclopropa[c]cycloheptene-11-amine | CNC1C2C3C4=C(C1C=1C(=C32)CC=CC1)C=CC=C4 | C18H17N
